US04757070
5-(1-Imidazolylmethyl)-beta-carboline-3-carboxylic acid ethyl ester
A suspension of 0.11 g of 9-acetyl-5-(1-imidazolylmethyl)-beta-carboline-3-carboxylic acid ethyl ester in 5 ml of ethanol is mixed with 10 mg of K2CO3 and refluxed for two hours. After filtering, the solution is concentrated in a vacuum, the residue is mixed with water, suctioned off and recrystallized from water. Yield 70 mg (71%).

reactant | 9-acetyl-5-(1-imidazolylmethyl)-beta-carboline-3-carboxylic acid ethyl ester | 0.11 g | C(C)OC(=O)C=1N=CC=2N(C3=CC=CC(=C3C2C1)CC=1NC=CN1)C(C)=O | C20H18N4O3
reactant | K2CO3 | 10 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 5-(1-Imidazolylmethyl)-beta-carboline-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=CC=2NC3=CC=CC(=C3C2C1)CC=1NC=CN1 | C18H16N4O2
